US05807891
62e) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-[p-(2-methoxyethoxy)phenyl]-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid
3.85 g (6.48 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-[p-(2-methoxyethoxy)phenyl]-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid in 11 ml of DMF are silylated, at RT for 16 h and under a protective gas, with 4.49 g (29.8 mmol) of tert-butyldimethylchlorosilane and 3.6 g (53.1 mmol) of imidazole. The reaction mixture is poured onto ice-water and the whole is extracted 3 times with ethyl acetate. The organic phases are washed with 10% citric acid solution, 2 times with water and with saline, dried with Na2 SO4 and evaporated. The residue is dissolved in 79 ml of methanol and 30 ml of THF, and this solution is treated with 5.37 g of potassium carbonate and 30 ml of water and stirred at RT for 3 h. The reaction mixture is subsequently poured onto an ice-cold 10% citric acid solution, and this mixture is extracted 3 times with ethyl acetate. The organic phases are washed with 2 portions of H2O and saline, dried with Na2SO4 and evaporated. Column chromatography (SiO2, hexane/ethyl acetate, 1:1) affords the title compound: TLC Rf (C)=0,28; tRet (II)=20.9 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-[p-(2-methoxyethoxy)phenyl]-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid | 6.48 mmol, 3.85 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCCOC | C34H43NO8
reactant | tert-butyldimethylchlorosilane | 29.8 mmol, 4.49 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 53.1 mmol, 3.6 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-[p-(2-methoxyethoxy)phenyl]-2(R)-[(p-benzyloxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OCCOC | C40H57NO8Si
